US05128355
To a solution of 0.84 g of 1-[(2'-aminobiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-(2-methoxyethoxymethoxymethyl)imidazole, 0.23 g of 4-dimethylaminopyridine, 1.28 mL of triethylamine, and 10 mL of tetrahydrofuran at 25° was added dropwise 1.30 mL of trifluoroacetic anhydride. The reaction mixture was stirred at 25° for 4 hours and then was poured into water. The resulting solution was adjusted to pH 4 using 10% hydrochloric acid and extracted with diethyl ether. The combined organic phases were washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Column chromatography afforded 0.96 g of 1-[(2'-trifluoroacetamidobiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-(2-methoxyethoxymethoxymethyl)-imidazole. NMR (200 MHz, CDCl3) δ 8.22 (d, 1H); 7.89 (br s, 1H); 7.44 (m, 1H); 7.36-7.29 (m, 4H); 7.12 (d, 2H); 5.23 (s, 2H); 4.68 (s, 2H); 4.49 (s, 2H); 3.65 (m, 2H); 3.54 (m, 2H); 3.37 (s, 3H); 2.56 (t, 2H); 1.67 (quint., 2H); 1.34 (sext., 2H); 0.87 (t, 3H).

reactant | 1-[(2'-aminobiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-(2-methoxyethoxymethoxymethyl)imidazole | 0.84 g | NC1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1COCOCCOC)Cl)CCCC | C25H32ClN3O3
reactant | triethylamine | 1.28 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.30 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.23 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-[(2'-trifluoroacetamidobiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-(2-methoxyethoxymethoxymethyl)-imidazole | 0.96 g | FC(C(=O)NC1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1COCOCCOC)Cl)CCCC)(F)F | C27H31ClF3N3O4
